US07205302B2
2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic Acid Tert-Butyl Ester
22.84 g of 4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol was dissolved in 160 ml of benzene and 10.73 g of tetra-n-butylammonium hydrogen sulfate and 160 ml of an aqueous 40% potassium hydroxide solution were added. While stirring vigorously under ice cooling, 10.73 g of tert-butyl bromoacetate was added dropwise so as to control the inner temperature within a range from 5 to 10° C. After stirring for 45 minutes, an ice bath was removed and the mixture was stirred at room temperature for one hour. The reaction solution was diluted with water and then extracted with diethyl ether. The extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 21.70 g of the desired compound as a pale yellow oily substance.

reactant | 4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]-1-butanol | 22.84 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C(C)C)CCCCO | C23H27N3O
reactant | potassium hydroxide | [OH-].[K+]
reactant | tert-butyl bromoacetate | 10.73 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | benzene | 160 ml | C1=CC=CC=C1 | C6H6
catalyst | tetra-n-butylammonium hydrogen sulfate | 10.73 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-{4-[N-(5,6-diphenylpyrazin-2-yl)-N-isopropylamino]butyloxy}acetic Acid Tert-Butyl Ester | 21.70 g | C(C)(C)(C)OC(COCCCCN(C(C)C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H37N3O3
